US07989622B2
Into a 20 mL vial was added 3-amino-N-(3-(3,5-dimethoxy-phenylamino)quinoxalin-2-yl)benzenesulfonamide (0.24 mmol, 1 equiv), prepared using procedures similar to those described in Example 15, DMA (5 mL) and 1-(tert-butoxycarbonyl)azetidine-3-carboxylic acid (0.336 mmol, 1.4 equiv). Hunig's Base (0.792 mmol, 3.3 equiv) and HATU (0.288 mmol, 1.2 equiv) were added to the vial and the reaction mixture was then stirred at room temperature, overnight. Completion of the reaction was indicated by LCMS. The solvent was removed by rotary evaporation. The crude mixture was carried forward without further purification. The residue was suspended in 5 mL ethyl acetate and chilled in an ice bath. A solution of 4 N HCl in dioxane (3 mL, 5 equiv) was added with stirring. The reaction mixture was then stirred at room temperature overnight. The solid materials were collected by filtration, washed with ethylacetate then purified further by preparative reverse-phase HPLC (ammonium acetate/ACN). A Waters Fractionlynx preparative reverse-phase HPLC; equipped with a Waters SunFire Prep C18, OCD 5 μM, 30×70 mm column and running a 5-100% gradient with a binary solvent system of 25 mM ammonium acetate in water/acetonitrile; was used to carry out the purification. N-(3-(N-(3-(3,5-dimethoxy-phenylamino)quinoxalin-2-yl)sulfamoyl)phenyl)azetidine-3-carboxamide was obtained (26 mg, 20%). 1H-NMR (400 MHz, d6-DMSO): 10.26 (s, 1H), 8.81 (s, 1H), 8.25 (t, 1H), 8.14 (s, 1H), 7.74 (d, 1H), 7.69 (d, 1H), 7.41-7.39 (m, 1H), 7.36 (d, 1H), 7.32 (d, 2H), 7.30-7.28 (dd, 1H), 7.14-7.11 (m, 2H), 6.14 (t, 1H), 4.09 (d, 4H), 3.78 (s, 6H); MS (EI) m/z C26H26N6O5S: 535.6 (MH+).

reactant | 3-amino-N-(3-(3,5-dimethoxy-phenylamino)quinoxalin-2-yl)benzenesulfonamide | 0.24 mmol, 1 equiv | NC=1C=C(C=CC1)S(=O)(=O)NC1=NC2=CC=CC=C2N=C1NC1=CC(=CC(=C1)OC)OC | C22H21N5O4S
reactant | 1-(tert-butoxycarbonyl)azetidine-3-carboxylic acid | 0.336 mmol, 1.4 equiv | C(C)(C)(C)OC(=O)N1CC(C1)C(=O)O | C9H15NO4
reactant | Hunig's Base | 0.792 mmol, 3.3 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.288 mmol, 1.2 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 3 mL, 5 equiv | O1CCOCC1 | C4H8O2
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
product | N-(3-(N-(3-(3,5-dimethoxy-phenylamino)quinoxalin-2-yl)sulfamoyl)phenyl)azetidine-3-carboxamide | COC=1C=C(C=C(C1)OC)NC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C=1C=C(C=CC1)NC(=O)C1CNC1 | C26H26N6O5S
